US05646327
Preparation of N-(2-carboxyethyl)-N-hydroxy-β-Alanine
Methanol (200 ml) was added to a mechanically stirred aqueous solution of hydroxylamine (13.24 g of 50% solution, 0.2 moles). Acrylic acid (27.4 ml, 0.4 moles) was added dropwise to the solution at 25° C. over thirty minutes. After a few hours of reaction, a white precipitate began to form. The reaction mixture was stirred overnight at room temperature, and the resulting white solid was filtered out, washed with cold water, and dried in vacuum overnight to give 30.4 g (85%) of the desired compound.

reactant | hydroxylamine | 0.2 moles, 13.24 g | NO | H3NO
reactant | Acrylic acid | 0.4 moles, 27.4 ml | C(C=C)(=O)O | C3H4O2
solvent | Methanol | 200 ml | CO | CH4O
product | N-(2-carboxyethyl)-N-hydroxy-β-Alanine | 30.4 g, 85% | C(=O)(O)CCN(CCC(=O)O)O | C6H11NO5
